US07776869B2
To 2,5-dichloronitrobenzene (3.0 g, 16 mmol) was added N1,N1,N3-trimethylpropane-1,3-diamine (2.2 g, 19 mmol). The mixture was stirred for 2.5 days at RT, diluted with 0.01 N HCl and extracted with EtOAc. The aqueous layer was made basic with Na2CO3 and extracted with EtOAc. The organic layer was dried over anhydrous Na2SO4, filtered and concentrated to yield 4-chloro-N-(3-(dimethylamino)propyl)-N-methyl-2-nitrobenzenamine as an orange oil. MS m/z=272 [M+H]+. Calc'd for C12H18ClN3O2: 271.75.

reactant | 2,5-dichloronitrobenzene | 16 mmol, 3.0 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | N1,N1,N3-trimethylpropane-1,3-diamine | 19 mmol, 2.2 g | CN(CCCNC)C | C6H16N2
solvent | HCl | 0.01 N | Cl | ClH
product | 4-chloro-N-(3-(dimethylamino)propyl)-N-methyl-2-nitrobenzenamine | ClC1=CC(=C(C=C1)N(C)CCCN(C)C)[N+](=O)[O-] | C12H18ClN3O2
